US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperidin-3-ol
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-hydroxypiperidine (6.1 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (0.6 mg). HRMS calcd for C16H18N2O3: 286.1317, found 286.1315.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-hydroxypiperidine | 0.060 mmol, 6.1 mg | OC1CNCCC1 | C5H11NO
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperidin-3-ol | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CCC1)O | C16H18N2O3
